US05616793
Aqueous ammonia (308 g of 28% ammonium hydroxide, 5.06 mol), water (431 g), and methyl tert-butyl ether (200 g) are combined and cooled to 15° C. 3-Isobutylglutaric acid anhydride is added and the reaction mixture is allowed to warm to 50° to 60° C. The reaction mixture is cooled to 20°-25° C. The solvent is evaporated and the pH of the solution is adjusted to 1.0 with concentrated hydrochloric acid. Water (200 mL) is added and the mixture is filtered. The solid is washed with water (200 mL). The solid is dried under reduced pressure to give 408 g of (±)-3-(carbamoylmethyl)-5-methylhexanoic acid as an off-white solid. (±)-3-(Carbamoylmethyl)-5-methylhexanoic acid has a melting point in the range of about 107.5° to about 108.5° C. 1H-NMR (DMSO-d6, 200 MHz): δ 0.84 (d, 6H, J=6.5 Hz), 1.07-1.17 (m, 2H), 1.50-1.72 (m, 1H), 1.98-2.25 (m, 5H), 6.75 (s, 1H), 7.30 (s, 1H), 11.6 (s, 1H). IR (KBr): 592.0, 655.7, 700.0, 1010.5, 1133.9, 1214.9, 1241.9, 1278.6, 1294.0, 1427.1, 1461.8, 1585.2, 1668.1, 1700.9, 2514.7, 2622.7, 2962.1, 3220.5, 3367.1 cm-1.

reactant | ammonia | 5.06 mol, 308 g | N | H3N
reactant | water | 431 g | O | H2O
reactant | 3-Isobutylglutaric acid anhydride | C(C(C)C)C1CC(=O)OC(C1)=O | C9H14O3
solvent | methyl tert-butyl ether | 200 g | C(C)(C)(C)OC | C5H12O
product | (±)-3-(carbamoylmethyl)-5-methylhexanoic acid | 408 g | C(N)(=O)CC(CC(=O)O)CC(C)C | C9H17NO3
